US08071584B2
5-Bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid
Ethyl 5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate (0.189 g, 0.441 mmol), was stirred in a methanol (5 mL)/water (3 mL) solution. 6M NaOH (0.735 mL, 4.41 mol, 10 eq) was added and the reaction was heated to 85° C. for 1.5 hours. LCMS analysis indicated the reaction was completed. The methanol was concentrated and the aqueous solution was acidified with 6M HCl. The resulting white solid was filtered and dried under vacuum to give 0.187 g (92%) of the title compound.

reactant | Ethyl 5-bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 0.441 mmol, 0.189 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(S(C(C1)C)(=O)=O)C | C18H22BrNO4S
reactant | methanol | 5 mL | CO | CH4O
reactant | NaOH | 4.41 mol, 6M, 0.735 mL, 10 eq | [OH-].[Na+]
solvent | water | 3 mL | O | H2O
product | 5-Bromo-3-(2,6-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylic acid | 0.187 g, 92% | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CC(S(C(C1)C)(=O)=O)C | C16H18BrNO4S
